US06670362B2
2-(4-Fluorophenyl)ethanesulfonyl chloride
Phosphorus pentachloride (5.6 g, 27 mmol) was added portionwise over 10 minutes to a stirred suspension of 2-(4-fluorophenyl)ethanesulfonic acid sodium salt (9 mmol, contaminated with sodium bromide, total weight 2.87 g) in dry toluene (15 ml) at room temperature. The reaction mixture was heated under reflux for 90 minutes and was then stirred at room temperature overnight. The reaction mixture was diluted with water (20 ml) and the organic phase was separated. The aqueous phase was extracted with dichloromethane (20 ml) and the organic extracts were combined, dried over magnesium sulfate and concentrated under vacuum to give the title compound as an oil, (0.7 g) Rf 0.92 (dichloromethane).

reactant | Phosphorus pentachloride | 27 mmol, 5.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-(4-fluorophenyl)ethanesulfonic acid sodium salt | 9 mmol, 2.87 g | [Na+].FC1=CC=C(C=C1)CCS(=O)(=O)[O-]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
product | 2-(4-Fluorophenyl)ethanesulfonyl chloride | 0.7 g | FC1=CC=C(C=C1)CCS(=O)(=O)Cl | C8H8ClFO2S
